US07557103B2
A. 7-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
To a mixture of 7-fluoro-1H-indole (0.50 g, 3.70 mmol), dtbpy (0.020 g, 0.074 mmol), Pin2B2 (0.94 g, 3.70 mmol) and hexane (20 mL) is added [Ir(OMe(COD)]2 (0.027 g, 0.037 mmol). The solution is stirred over the weekend and concentrated. The residue is filtered thru a pad of silica gel eluting with 100% EtOAc and concentrated. The residue is recrystallized from hexane to furnish the title compound (0.53 g, 2.03 mmol, 55%). 1H NMR (CDCl3), δ 1.39 (s, 12H), 6.90-7.04 (m, 2H), 7.13 (dd, =3.5, 2.2 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 8.73 (s, 1H) ppm. LC/MS (m/z): calcd. for C14H17BFNO2 (M+H)+: 262.2. found: 262.0.

reactant | 7-fluoro-1H-indole | 3.70 mmol, 0.50 g | FC=1C=CC=C2C=CNC12 | C8H6FN
reactant | Pin2B2 | 3.70 mmol, 0.94 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | dtbpy | 0.074 mmol, 0.020 g | CC(C)(C)C1=CC(=NC=C1)C2=NC=CC(=C2)C(C)(C)C | C18H24N2
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 7-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 2.03 mmol, 0.53 g, 55% | FC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BFNO2
